US08865726B2
A solution of 4-bromo-2-fluorobenzonitrile (1.00 g, 5.00 mmol), trifluoroacetic acid (3.5 mL, 45 mmol), and sulfuric acid (3.5 mL, 66 mmol) was stirred at ambient temperature for 4 hours, at 30° C. for 15 hours, and at 50° C. for 6 hours. After cooling to 0° C., water (20 mL) was added, and the resulting suspension was stirred at 0° C. for 1.5 hours. The solids were collected by vacuum filtration, rinsed with excess water, and dried to afford 4-bromo-2-fluorobenzamide (0.956 g, 88%) as an off-white solid which was carried on without further purification.

reactant | 4-bromo-2-fluorobenzonitrile | 5.00 mmol, 1.00 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | trifluoroacetic acid | 45 mmol, 3.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sulfuric acid | 66 mmol, 3.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 mL | O | H2O
product | 4-bromo-2-fluorobenzamide | 0.956 g, 88% | BrC1=CC(=C(C(=O)N)C=C1)F | C7H5BrFNO
